2144-11-29 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: EtOH withdrawal
   24 Hour Events:
   - [**1-17**] amp D50 for hypoglycemia in early AM
   - getting valium 10mg for CIWA's [**12-29**] -> total 40mg in AM, then
   improved.
   - changed vanco to keflex for question skin infection.
   - social work -> haven't come yet.
   - patient demanding to leave AMA through afternoon.  Saying she wants
   to be at home in her bed with her dogs. Unable to really fully explain
   what would happen to her.  Seen by psychiatry -> generally intact, but
   does not have capacity for this decision, so can be kept against will.
   On further discussion, patient amenable to staying at least overnight.
   Allergies:
   Tetracycline
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-11-28**] 08:11 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2144-11-28**] 11:17 AM
   Heparin Sodium (Prophylaxis) - [**2144-11-28**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 92 (86 - 127) bpm
   BP: 144/87(100) {95/58(71) - 144/96(101)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  7,245 mL
                                                                    654 mL
   PO:
                                                                    730 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,515 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  5,390 mL
                                                                  1,950 mL
   Urine:
                                                                  4,190 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,855 mL
                                                                 -1,296 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Sitting up in chair, calm, in NAD, A&Ox3 w/ eccymosis over right side
   of face and injected right conjunctiva.  Slightly tachycardic but
   regular.  Lungs CTAB.  Abd soft, NTND.  Extremities and back with
   multiple healing excoriations.  Narrow-based, shuffling gait without
   signs of ataxia.
   Labs / Radiology
   171 K/uL
   11.5 g/dL
   122 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.1 mEq/L
   3 mg/dL
   105 mEq/L
   141 mEq/L
   33.3 %
   4.1 K/uL
        [image002.jpg]
                            [**2144-11-28**]  05:05 AM
                            [**2144-11-29**]  03:24 AM
   WBC
   6.2
   4.1
   Hct
   31.8
   33.3
   Plt
   186
   171
   Cr
   0.2
   0.4
   Glucose
   46
   122
   Other labs: PT / PTT / INR:11.3/23.4/0.9, ALT / AST:40/141, Alk Phos /
   T Bili:381/0.9, Ca++:8.2 mg/dL, Mg++:1.5 mg/dL, PO4:1.5 mg/dL
   Microbiology: Blood cx:pending
   Urine cx: pending
   Wound cx: pending
   Assessment and Plan
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment and Plan: 62 year old female with a history of alcohol abuse
   transferred to this hospital for management of a possible subarachnoid
   hemorrhage now admitted to the MICU for management of alcohol
   withdrawal.  She was not considered to have competency to leave AMA
   last night.
   Decision making: She has very poor insight into her overall situation
   and does not appear worried by her repeated falls while intoxicated at
   home.  She was seen by psych last night who did not feel she had
   capacity to risk withdrawal at home last night.  She does not have
   improved capacity today, but her risk of withdrawal is now largely
   passed.
   - Will talk again w/ psych this morning.  Her competency has not
   improved, but her imminent medical risk has also decreased.
   Alcohol withdrawal:  Self reports long history of alcohol abuse which
   she says is improving, though alcohol level was in the 600s on
   presentation to [**Hospital3 **].  This morning she is calm,
   non-tremulous with CIWA scores of [**2-18**] off of valium.  She is unable to
   give a clear plan of how she will remain sober at home, but does not
   want to consider rehab.
   - valium 10 mg IV Q1H:PRN CIWA > 10
   - thiamine, folate, multivitamins
   - social work consult -> she is now willing to talk to social work.
   s/p fall:  Patient currently confused and reports history of fall with
   possible head trauma.  Transferred for possible subarachnoid hemorrhage
   at OSH.  Here CT head and C-spine negative, C-spine cleared yesterday.
   She is still at high risk of falls at home and cannot articulate a plan
   to be safer at home.
   - PT eval.
   Skin Lesions:  Patient with multiple small superficial lesions on her
   back and lower extremities with mild erythema.  She has no leukocytosis
   or fevers and lesions do not appear super-infected.  We can continue
   Keflex while she is here pending wound cultures, but she does not need
   to go home with a course of antibiotics.
   - f/u blood and wound cultures.
   Tobacco Abuse:
   - nicotine patch
   FEN: regular diet, replete electrolytes.
   Prophylaxis: Subutaneous heparin
   Communication: w/ patient and husband.  [**Name (NI) 133**] contact PCP today by
   email.
   Code: Full code.
   Dispo: She should stay here through the day to see if we can resolve
   pending issues and send her home tonight.  To floor in evening if still
   here.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-11-28**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Overnight, demanding to leave but unable to explain reasons to leave.
   Seen by psych who agreed that pt lacked capacity to make this
   decision.  Received 60 Valium, last at 9am (requested, not meeting req
   for CIWA).
   Now, improved.  Appears calmer and clearer.
   VS notable for borderline tachy to 100
s, sat
ing on room air.
   Exam: unchanged.  Ronchi b/l.  No tremors.
   Labs, meds reviewed.
   Agree with plan for with SW, Psych re-eval, PT if agreeable.
   Difficult situation as lacks insight, but whether truly lacks capacity
   is not clear.
   Based on d/w psych, is not committable to psych facility.  Does lack
   insight (and thus capacity) d/t dementia regarding medical decision
   making, and likely to return home to EtOH abuse and subsequent falls.
   No medical reasons to keep her as is improved from withdrawal
   standpoint, no further treatment needed.
   Pt is adamant about leaving, and says that she will stop drinking and
   be more careful to avoid falling.  Currently appears that risks of
   pharmacological and physical restraints likely needed to keep patient
   here, outweigh potential benefits.
   D/w resident, pt, husband, to the best of my ability, need to stop EtOH
   abuse and need to ensure safety at home.
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2144-11-29**] 19:07 ------

2144-11-30 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Alcohol withdrawal
   24 Hour Events:
   - deal was made that was safe to return home if went with husband.  [**Name (NI) **]
   never showed up to get her.
   - this morning speaking to husband he seemed confused, did not realize
   that she was at the [**Hospital1 19**] or know how many days she had been here.
   Allergies:
   Tetracycline
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2144-11-28**] 08:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-11-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.6
   HR: 94 (87 - 117) bpm
   BP: 133/85(96) {119/66(82) - 152/94(109)} mmHg
   RR: 21 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,780 mL
                                                                    615 mL
   PO:
                                                                    680 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,100 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  4,450 mL
                                                                    830 mL
   Urine:
                                                                  4,450 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,670 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   11.9 g/dL
   106 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.9 mEq/L
   4 mg/dL
   107 mEq/L
   142 mEq/L
   34.8 %
   4.1 K/uL
        [image002.jpg]
                            [**2144-11-28**]  05:05 AM
                            [**2144-11-29**]  03:24 AM
                            [**2144-11-30**]  03:29 AM
   WBC
   6.2
   4.1
   4.1
   Hct
   31.8
   33.3
   34.8
   Plt
   186
   171
   180
   Cr
   0.2
   0.4
   0.4
   Glucose
   46
   122
   106
   Other labs: PT / PTT / INR:11.3/23.4/0.9, ALT / AST:50/142, Alk Phos /
   T Bili:406/0.9, Amylase / Lipase:/32, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Microbiology: Wound cx: mixed bacterial types (>=3)
   blood cx: pending
   urine cx: >100,000 GNR
   Assessment and Plan
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 HYPOGLYCEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Assessment and Plan: 62 year old female with a history of alcohol abuse
   transferred to this hospital for management of a possible subarachnoid
   hemorrhage now admitted to the MICU for management of alcohol
   withdrawal.  There are now significant concerns for her safety at home.
   Dementia/decision making: She has very poor insight into her overall
   situation and does not appear worried by her repeated falls while
   intoxicated at home.  She is showing more signs of dementia at this
   time, though we do not know her baseline functional status.  She does
   not show signs of delirium.  We cannot provide a safe discharge plan at
   this time and she does not have capacity to decide to leave AMA.
   - f/u psych recommendations
   - establish contact with patient
s PCP
   [**Name Initial (PRE) **] Social work is trying to establish contact with her daughter.
   Alcohol withdrawal:  Now stable and has not gotten valium for over
   24hrs, making her stable for transfer to the floor.  Self reports long
   history of alcohol abuse which she says is improving, though alcohol
   level was in the 600s on presentation to [**Hospital3 **].  This
   morning she is calm, non-tremulous with CIWA scores of [**2-18**] off of
   valium.  She is unable to give a clear plan of how she will remain
   sober at home, but does not want to consider rehab.
   - continue valium 10 mg IV Q1H:PRN CIWA > 10
   - thiamine, folate, multivitamins
   - social work consult
   s/p fall:  Physical therapy felt the patient is so unsteady that she
   should have placement with 24 hour supervision/assistance and use a
   walker at all times if at home.  She was transferred for possible
   subarachnoid hemorrhage at OSH.  Here CT head and C-spine negative,
   C-spine cleared yesterday.  Her inability to understand that she is at
   imminent risks for falls is probably the main reason she needs to stay
   inpatient at this time.
   UTI:  Patient
s urine culture grew >100,000 gram negative rods.  She
   was already on Keflex for possible super-infection of her skin
   lesions.  We will not start any other antibiotics unless the GNRs are
   cephalosporin resistant.
   Skin Lesions:  Patient with multiple small superficial lesions on her
   back and lower extremities with mild erythema.  She has no leukocytosis
   or fevers and lesions do not appear super-infected.  We can continue
   Keflex while she is here pending wound cultures, but she does not need
   to go home with a course of antibiotics.
   - f/u blood and wound cultures.
   Tobacco Abuse:
   - nicotine patch
   FEN: regular diet, replete electrolytes.
   Prophylaxis: Subutaneous heparin
   Communication: w/ patient and husband.
   [**Name (NI) 36**]: Full code.
   Dispo: To the floor today for further evaluation of her home situation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2144-11-28**] 08:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: